US07144899B2
A solution of 5-chloro-2-(1H-tetraazol-1-yl)benzonitrile (113 mg, 0.55 mmol) in ethanol saturated with ammonia (20 mL) was stirred in the presence of Raney nickel (50% slurry in water, washed with ethanol, catalytic amount) under a hydrogen atmosphere for 1 h. The reaction mixture was filtered through Celite and concentrated to give 5-chloro-2-tetrazol-1-yl-benzylamine (58 mg, 50%); 1H NMR (400 MHz, CDCl3): δ 9.24 (s, 1H), 7.64 (d, J=2.2 Hz, 1H), 7.46 (m, 1H), 7.38 (m, 1H), 3.68 (s, 2H).

reactant | 5-chloro-2-(1H-tetraazol-1-yl)benzonitrile | 0.55 mmol, 113 mg | ClC=1C=CC(=C(C#N)C1)N1N=NN=C1 | C8H4ClN5
reactant | ammonia | 20 mL | N | H3N
solvent | ethanol | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 5-chloro-2-tetrazol-1-yl-benzylamine | 58 mg, 50% | ClC=1C=CC(=C(CN)C1)N1N=NN=C1 | C8H8ClN5
